US08022047B2
500 mg (1.42 mmol) of sarcosine benzyl ester p-toluenesulfonate, 478 mg (2.13 mmol) of 2-(tert-butoxycarbonylamino)-ethyl bromide, and 0.25 mL (2.13 mmol) of diisopropyl-ethylamine were dissolved in methylene chloride (10 mL), and then stirred at room temperature for approximately three days. After completion of the reaction, the reaction solution was concentrated and the residue obtained was purified by silica gel column chromatography (ethyl acetate) to yield 175 mg (38%) of {[2-(tert-butoxycarbonylamino)-ethyl]-methyl-amino}-acetic acid benzyl ester as a colorless viscous oil.

reactant | sarcosine benzyl ester p-toluenesulfonate | 1.42 mmol, 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CNC)=O
reactant | 2-(tert-butoxycarbonylamino)-ethyl bromide | 2.13 mmol, 478 mg | C(C)(C)(C)OC(=O)NCCBr | C7H14BrNO2
reactant | diisopropyl-ethylamine | 2.13 mmol, 0.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | {[2-(tert-butoxycarbonylamino)-ethyl]-methyl-amino}-acetic acid benzyl ester | 175 mg, 38% | C(C1=CC=CC=C1)OC(CN(C)CCNC(=O)OC(C)(C)C)=O | C17H26N2O4
